US07067529B2
To 3-hydroxyphenyl acetic acid methyl ester (27.3 g, 165 mmol) in acetone (200 mL) was added 2-iodobutane (55 mL, 478 mmol) and potassium carbonate (83 g, 601 mmol). The mixture was heated at 65° C. for 48 hrs and filtered through a Celite® pad. The filtrate was concentrated in vacuo and the residue was diluted with dichloromethane and water. The aqueous phase was extracted with dichloromethane (3×100 mL). The combined extracts were washed with saturated sodium chloride (50 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford (3-sec-butoxy-phenyl)-acetic acid methyl ester. To a solution of (3-sec-butoxy-phenyl)-acetic acid methyl ester in methanol (200 mL) was added 10N sodium hydroxide solution (50 mL). The reaction mixture was stirred at 60° C. for 4 hrs. The solvent was evaporated and the mixture was acidified to pH=3 by addition of 6N hydrogen chloride solution. The aqueous phase was extracted with dichloromethane (3×100 m]L). The combined extracts were washed with saturated aqueous sodium chloride solution (80 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford (3-sec-butoxy-phenyl) acetic acid (25 g, 73% yield) as a light brown oil.

reactant | 3-hydroxyphenyl acetic acid methyl ester | 165 mmol, 27.3 g | COC(CC1=CC(=CC=C1)O)=O | C9H10O3
reactant | 2-iodobutane | 478 mmol, 55 mL | IC(C)CC | C4H9I
reactant | potassium carbonate | 601 mmol, 83 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | (3-sec-butoxy-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC(C)CC)=O | C13H18O3
